US07705053B2
Production of 4-methoxy3-N-o-tolylisophthalamide (Compound 1-3-23)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 2-methylaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 2-methylaniline | CC1=C(N)C=CC=C1 | C7H9N
product | 4-methoxy3-N-o-tolylisophthalamide | COC1=C(C=C(C(=O)N)C=C1)C(=O)NC1=C(C=CC=C1)C | C16H16N2O3
